US07592477B2
Step a) Preparation of tert-butyl 4-({[(1-aminododecylidene)amino]oxy}carbonyl)benzylcarbamate
At 0° C., to a solution of boc-(4-aminomethyl)-benzoic acid (5.000 g, 19.9 mmol), NMM (2.214 g, 21.89 mmol) in anhydrous THF (50 mL) was added dropwise isobutyl chloroformate (2.853 g, 20.89 mmol). The resulting mixture was stirred for 10 min, then N-hydroxydodecanimidamide (Example 23, step a) (6.398 g, 29.85 mmol) was added at once. After 1 h the ice-water bath was removed and the mixture was stirred for 14 h at rt. An aqueous solution of HCl (1N, 50 mL) was added and the mixture was extracted with AcOEt (3×70 mL). The combined organic layers were washed with water (150 mL), dried over MgSO4 and evaporated to give a white solid (9.2 g). This crude product was purified by flash chromatography over silica gel (c-Hex/AcOEt 4/1) to give the title compound as a white solid (7.91 g, 89%). 1H NMR (CDCl3, 300 MHz) δ 7.80 (d, 2H, J=8.0 Hz), 7.50 (t, 1H, J=5.7 Hz) 7.32 (d, 2H, J=8.0 Hz), 6.42 (br s, 1H), 6.27 (br s, 1H), 4.20 (s, 1H), 4.18 (s, 1H), 1.91-2.15 (m, 2H), 1.08-1.66 (m, 27H), 0.86 (t, 3H, J=6.9 Hz). M+(LC/MS(ESI)): 448.4; M−(LC/MS(ESI)): 446.3. HPLC (Condition A), Rt: 5.74 min (HPLC purity: 96.7%).

reactant | boc-(4-aminomethyl)-benzoic acid | 19.9 mmol, 5.000 g | CC(C)(C)OC(=O)NCC1=CC=C(C=C1)C(=O)O | C13H17NO4
reactant | NMM | 21.89 mmol, 2.214 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 20.89 mmol, 2.853 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-hydroxydodecanimidamide | ONC(CCCCCCCCCCC)=N | C12H26N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-({[(1-aminododecylidene)amino]oxy}carbonyl)benzylcarbamate | 9.2 g | NC(CCCCCCCCCCC)=NOC(=O)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C25H41N3O4
